US04111935
A stirred mixture of hydrazine hydrate (30 ml) and 6-[2-(3-t-butylamino-2-hydroxypropoxy)-4-methoxyphenyl]-3-chloropyridazine (2.9 g) was heated under reflux for 5 hours, and was cooled to 0°. The oil which separated out was dissolved in chloroform and this solution was washed with water, and with dilute hydrochloric acid, and evaporated to give 3-[2-(3-t-butylamino-2-hydroxypropoxy)-4-methoxyphenyl]-6-hydrazinopyridazine dihydrochloride, m.p. 240°-245° (methanol)

reactant | 6-[2-(3-t-butylamino-2-hydroxypropoxy)-4-methoxyphenyl]-3-chloropyridazine | 2.9 g | C(C)(C)(C)NCC(COC1=C(C=CC(=C1)OC)C1=CC=C(N=N1)Cl)O | C18H24ClN3O3
reactant | hydrazine hydrate | 30 ml | O.NN
product | 3-[2-(3-t-butylamino-2-hydroxypropoxy)-4-methoxyphenyl]-6-hydrazinopyridazine dihydrochloride | Cl.Cl.C(C)(C)(C)NCC(COC1=C(C=CC(=C1)OC)C=1N=NC(=CC1)NN)O | InChI=1S/C18H27N5O3.2ClH/c1-18(2,3)20-10-12(24)11-26-16-9-13(25-4)5-6-14(16)15-7-8-17(21-19)23-22-15;;/h5-9,12,20,24H,10-11,19H2,1-4H3,(H,21,23);2*1H
